US07977331B1
To a solution of methyl 12-cyclohexyl-3-(1-methanesulfonylpiperidin-3-yloxy)-6,7-dihydro-5-oxa-7a -azadibenzo[a,e]azulene-9-carboxylate (47 mg, 0.085 mmol) in tetrahydrofuran (1 ml) and methanol (1 ml) was added 4N aqueous sodium hydroxide solution (0.5 ml), and the mixture was stirred at 55° C. for 2 hr. The mixture was adjusted to pH 6.5 by adding 1N hydrochloric acid (2 ml), and extracted with a mixed solvent of ethyl acetate and tetrahydrofuran. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the solvent was concentrated under reduced pressure. Hexane and ethyl acetate were added to the obtained residue, and the precipitate was collected by filtration, washed with hexane and dried in vacuo to give 12-cyclohexyl-3-(1-methanesulfonylpiperidin-3-yloxy)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid (25 mg, yield 56%).

reactant | methyl 12-cyclohexyl-3-(1-methanesulfonylpiperidin-3-yloxy)-6,7-dihydro-5-oxa-7a -azadibenzo[a,e]azulene-9-carboxylate | 0.085 mmol, 47 mg | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC4CN(CCC4)S(=O)(=O)C)C=C(C=C2)C(=O)OC | C30H36N2O6S
reactant | sodium hydroxide | 4N, 0.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 1 ml | CO | CH4O
product | 12-cyclohexyl-3-(1-methanesulfonylpiperidin-3-yloxy)-6,7-dihydro-5-oxa-7a-azadibenzo[a,e]azulene-9-carboxylic acid | 25 mg, yield 56% | C1(CCCCC1)C=1C2=C(N3CCOC4=C(C13)C=CC(=C4)OC4CN(CCC4)S(=O)(=O)C)C=C(C=C2)C(=O)O | C29H34N2O6S
